US08703803B2
1,3,5-Tribromobenzene (10 g, 31.76 mmol), 4-pentyn-1-ol (10.69 g, 127.06 mmol) and bis(triphenylphosphine)palladium(II) dichloride were stirred in triethylamine under nitrogen for 5 minutes. Copper(I) iodide (92 mg, 0.48 mmol) was added and the mixture was stirred for 6 hours at 80° C. The mixture was cooled to room temperature, filtered through a celite pad and rinsed with ethyl acetate. The combined filtrate was evaporated to dryness under reduced pressure. The resulting residue was purified by column chromatography (CHCl3:MeOH 10:1) to afford 7.61 g of 1,3,5-tris-(5-hydroxy-1-pentynyl)-benzene. Yield: 74%. 1H NMR (300 MHz, CDCl3) δ 7.31 (3, 3h), 3.81 (t, J=6.0 Hz, 6H), 2.52 (t, J=6.9 Hz, 6H), 1.85 (m, 6H); 13C NMR (75 MHz, CDCl3) δ 133.8, 124.2, 90.5, 80.0, 61.9, 31.5, 16.2 ppm.

reactant | 1,3,5-Tribromobenzene | 31.76 mmol, 10 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | 4-pentyn-1-ol | 127.06 mmol, 10.69 g | C(CCC#C)O | C5H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Copper(I) iodide | 0.48 mmol, 92 mg | [Cu]I
product | 1,3,5-tris-(5-hydroxy-1-pentynyl)-benzene | 7.61 g, Yield: 74% | OCCCC#CC1=CC(=CC(=C1)C#CCCCO)C#CCCCO | C21H24O3
